US07175670B2
2 g (0.01 mol) of 3,5-dinitro-2-(3-hydroxypyrrolidin-1-yl)pyridine obtained according to Protocol A from 2-chloro-3,5-dinitropyridine and 3-hydroxypyrrolidine, were reduced according to Protocol B, to give 1.1 g of N-(3,5-diaminopyrid-2-yl)-3-hydroxypyrrolidine dihydrochloride.

reactant | 2-chloro-3,5-dinitropyridine | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | 3-hydroxypyrrolidine | OC1CNCC1 | C4H9NO
product | N-(3,5-diaminopyrid-2-yl)-3-hydroxypyrrolidine dihydrochloride | 1.1 g | Cl.Cl.NC=1C(=NC=C(C1)N)N1CC(CC1)O | InChI=1S/C9H14N4O.2ClH/c10-6-3-8(11)9(12-4-6)13-2-1-7(14)5-13;;/h3-4,7,14H,1-2,5,10-11H2;2*1H
